US05679623
Example H15: 2,3-Dihydro-3-(4-ethoxycarbonylbut-1-yl)-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole (compound no. 4.29 in table 4).
0.72 g of sodium hydride are added to a suspension of 4.1 g of 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole in 80 ml of N,N-dimethylformamide. The mixture is heated to 50°, treated with a solution of 5.22 g of 1-bromo-4-ethoxy-carbonyl-butane in 20 ml of N,N-dimethylformamide, and stirred for 30 minutes. The N,N-dimethylformamide is then removed on a rotary evaporator. The residue is treated with ethyl acetate, during which process sodium bromide precipitates. The mixture is filtered over Celite, and the filtrate is evaporated. The residue is treated with hexane, during which process crystals precipitate. The crystals are filtered off with suction and dried yielding the title compound melting at 74°-76°.

reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | 4.1 g | CC=1NC(N(C1)N=CC=1C=NC=CC1)=O | C10H10N4O
reactant | 1-bromo-4-ethoxy-carbonyl-butane | 5.22 g | BrC(CCCOCC)=C=O | C7H11BrO2
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-3-(4-ethoxycarbonylbut-1-yl)-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | C(C)OC(=O)CCCCN1C(N(C=C1C)N=CC=1C=NC=CC1)=O | C17H22N4O3
